US09102621B2
3-Chloro-2-[(3,3-difluorocyclobutyl)methoxy]-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine
3-Chloro-2-[(3,3-difluorocyclobutyl)methoxy]pyridine (Preparation 37, 4.82 g, 20.6 mmol) was dissolved in 1,4-dioxane (50 mL) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (10.48 g, 41.2 mmol) was added. The reaction mixture was degassed and di-μ-methanolatodiiridium(Ir—Ir)-cycloocta-1,5-diene (1:2) (0.41 g, 0.62 mmol) and 4,4′-di-tert-butyl-2,2′-bipyridine (0.33 g, 1.23 mmol) were also added. The reaction mixture was then stirred at room temperature under nitrogen for 60 hours. Methanol (20 mL) was added and bubbling was observed. When the bubbling stopped, the mixture was concentrated in vacuo and the residue purified by silica gel chromatography (Biotage®, gradient of 0-40% EtOAc in heptane) to afford the title compound (6.4 g, 86%).

reactant | 3-Chloro-2-[(3,3-difluorocyclobutyl)methoxy]pyridine | 20.6 mmol, 4.82 g | ClC=1C(=NC=CC1)OCC1CC(C1)(F)F | C10H10ClF2NO
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 41.2 mmol, 10.48 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | Methanol | 20 mL | CO | CH4O
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | 4,4′-di-tert-butyl-2,2′-bipyridine | 1.23 mmol, 0.33 g | C(C)(C)(C)C1=CC(=NC=C1)C1=NC=CC(=C1)C(C)(C)C | C18H24N2
product | 3-Chloro-2-[(3,3-difluorocyclobutyl)methoxy]-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 6.4 g, 86% | ClC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OCC1CC(C1)(F)F | C16H21BClF2NO3
